Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaw Pain 
 
Major Surgical or Invasive Procedure:
Coronary angiogram and PCI with DES to the LAD placement on ___

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:
___ year old gentleman with history of CAD s/p recent ___
___, hyperlipidemia, family history of premature CAD, who
presents for evaluation of jaw pain reminiscent of prior NSTEMI.

Patient with recent admission to ___ ___ for NSTEMI
(troponin I to 0.23, ref range <0.034), at that time described 
as
intermittent jaw pain with radiation to R arm described as
cramping, as well as 3 months of progressively worsening
exertional dyspnea. At that time, given presentation as well as
family history of early CAD (father with first MI in early ___,
declined intervention, fatal MI at age ___ brother with CABG x 4
by age ___, decision was made to proceed with cath, which 
revaled
95% ___ lesion in LAD. ___ was placed ___. He was
subsequently discharged on aspirin 81 mg, prasugrel 10 mg daily,
atorvastatin 40 mg daily, as well as metoprolol 12.5 mg BID. 

4 days ago, patient was able to play golf without difficulty.
However, for the past 3 days, patient has been experiencing 
chest
heaviness and jaw pain similar to his previous presentation of
NSTEMI. He reports the pain is intermittent in nature,
occasionally present at rest, not associated with exertion and 
is
associated with some shortness of breath. Whenever it comes on,
it lasts for approximately 30 minutes to an hour. No associated
nausea or diaphoresis.

In the ED,
- Initial vitals: 97.2 HR 73 BP 153/81 RR 18 SpO2 100% RA
Exam documented as:
"Gen: Well-appearing middle-aged man WNWD in NAD, seen sitting
comfortably with wife at bedside
___: Mild bibasilar crackles 
CV: RRR no MRG, no JVD
HEENT: Moist mucous membranes, PERRLA, EOMI, no scleral icterus
Abdomen: Soft NTND, no rebound tenderness, +BS
Extremities: FROM in all 4 extremities, 2+ pulses peripherally
Skin: Warm, dry and intact
Neuro: No gross neurologic deficits, alert and oriented, moves
all extremities no obvious facial abnormalities"

- EKG: Sinus rate ___, normal axis, normal intervals, Q wave in
III, TWI in V1, early R wave transition, LVH by ___

- Labs/studies notable for:
WBC 8.3 Hgb 15.0 Plt 184
INR 0.9
141 | 101 | 13
---------------
4.1 | 27 | 1.0
troponin < 0.01

- Patient was given: aspirin 324, nitroglycerin 0.4 
(Note patient reported improvement in jaw pain after
nitroglycerin)

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
above
 
Past Medical History:
PAST MEDICAL HISTORY
====================
CAD s/p ___ ___
Dyslipidemia
Tobacco abuse
 
Social History:
___
Family History:
FAMILY HISTORY
==============
Father -first MI in early ___, declined intervention, fatal MI 
at
___
Brother- quadruple bypass at the age of ___
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
=====================
VS:
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
LABS/MICRO reviewed in ___.

DISCHARGE PHYSICAL EXAMINATION: 
===========================
GENERAL: NAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema, site of right 
radial access with lines demarcating small hematoma after 
procedure. hematoma has not expanded 
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
LABS/MICRO reviewed in ___.

 
Pertinent Results:
Pertinent labs:

___ 12:46AM BLOOD WBC-8.3 RBC-4.95 Hgb-15.0 Hct-44.6 MCV-90 
MCH-30.3 MCHC-33.6 RDW-13.0 RDWSD-42.7 Plt ___
___ 12:46AM BLOOD ___ PTT-27.7 ___
___ 12:46AM BLOOD Glucose-101* UreaN-13 Creat-1.0 Na-141 
K-4.1 Cl-101 HCO3-27 AnGap-13
___ 12:46AM BLOOD cTropnT-<0.01
___ 09:05AM BLOOD CK-MB-2 cTropnT-<0.01
___ 03:17PM BLOOD cTropnT-<0.01
___ 08:17AM BLOOD CK-MB-1 cTropnT-<0.01
___ 12:46AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.9

Pertinent Reports: 
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is
moderate tortuosity beginning in the proximal segment. There is 
a stent in the ostium and proximal
segment. There is a 70% stenosis in the proximal segment.
The Septal Perforator, arising from the mid segment, is a small 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel.
The SinoAtrial, arising from the proximal segment, is a small 
caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.

Findings
• Single vessel coronary artery disease.

Recommendations
• DAPT for 12 months; 30 months if can tolerate. RIsk factor 
modification

 
Brief Hospital Course:
___ year old gentleman with history of CAD s/p recent ___
___, hyperlipidemia, family history of premature CAD, who
presents for evaluation of jaw pain reminiscent of prior
presentation of NSTEMI.

# CORONARIES: ___
# PUMP: Unknown
# RHYTHM: Sinus

# Unstable Angina
Given ongoing intermittent pain at rest started a nitro & 
heparin gtt with relief of chest pain. ECG was without ST 
changes, trops/CK-MB were normal. Coronary angiogram was 
performed which revealed sluggish flow to LAD and a DES was 
placed. He was Jaw/arm/chest pain free after placement of stent. 
He will need to continue DAPT. 

#CODE: Full confirmed

TRANSITIONAL ISSUES:
====================
[] new DES placed ___. Continue DAPT for 12 months, 30months if 
pt can tolerate 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO BID 
2. Nicotine Patch 21 mg/day TD DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Prasugrel 10 mg PO DAILY 

 
Discharge Medications:
1.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain/jaw pain/arm 
pain  
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Metoprolol Tartrate 12.5 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Nicotine Patch 21 mg/day TD DAILY  
7.  Prasugrel 10 mg PO DAILY  
8.  Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable angina
Coronary artery disease (Drug eluting stent  placed to the Left 
anterior descending)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

Why was I admitted to the hospital?
-You were having chest pain similar to your past heart attack. 

What happened while I was in the hospital?
-We ran several tests to determine that you were not having a 
large heart attack. 
-We performed a procedure called a coronary angiogram to 
evaluate for any blockages in your heart. We noted one area of 
blockage and a stent was placed. 

What should I do when I go home?
-continue taking all of your medication as prescribed
-return to the hospital if you experience similar chest pain 
which is not relieved by nitroglycerin. 
 
Followup Instructions:
___